US06235731B1
To a solution of 120.02 g (0.7991 mol) of imidazo-[1,2-a]pyridine-5-thiol and 134 ml (0.959 mol) of triethylamine in 500 ml of ethanol was added 88.6 ml (0.799 mol) of ethyl bromoacetate dropwise at room temperature, and the mixture was stirred at the same temperature for 2 hours. The solvent was then distilled off under reduced pressure and ethyl acetate was added to the residue. The resulting precipitate (for the most part, triethylamine hydrochloride) was filtered off and washed with ethyl acetate. The filtrate and washes were pooled and the solvent was distilled off under reduced pressure to provide ethyl (imidazo[1,2-a]pyridin-5-ylthio)acetate as crude product. This crude product was not purified but used as it was in the next reaction.

reactant | imidazo-[1,2-a]pyridine-5-thiol | 0.7991 mol, 120.02 g | N=1C=CN2C1C=CC=C2S | C7H6N2S
reactant | triethylamine | 0.959 mol, 134 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl bromoacetate | 0.799 mol, 88.6 ml | BrCC(=O)OCC | C4H7BrO2
solvent | ethanol | 500 ml | C(C)O | C2H6O
product | ethyl (imidazo[1,2-a]pyridin-5-ylthio)acetate | N=1C=CN2C1C=CC=C2SCC(=O)OCC | C11H12N2O2S
